US06251890B1
Step 1: Allyl (1S,5R,6S)-1-methyl-2-(1,1-dioxo-2,5,6,7-tetrahydro-1-thia-2,6-diaza-cyclopenta[cd]phenalen-2-ylmethyl)-6-(1-(R)-allyloxycarbonyloxyethyl)-carbapen-2-em-3-carboxylate
Diethylazodicarboxylate (2.25 mmol) is added to a cold (0° C.) solution of allyl (1S,5R,6S)-2-(hydroxymethyl)-6-[1(R)-allyloxycarbonyloxy-ethyl]-1-methylcarbapen-2-em-3-carboxylate (1.5 mmol), 2,5,6,7-tetrahydro-1-thia-2,6-diaza-cyclopenta[cd]phenalene-1,1-dioxide (1.5 mmol) and triphenylphosphine (2.25 mmol) in tetrahydrofuran (15 mL). The mixture is stirred at room temperature for 30 minutes then partitioned between ethyl acetate (100 mL) and water (100 mL). The water layer is extracted with ethyl acetate (50 mL) and the combined ethyl acetate layers are washed with saturated aqueous sodium chloride (50 mL), dried with magnesium sulfate, filtered, and evaporated. The crude product is purified by column chromatography to give the title compound.

reactant | Diethylazodicarboxylate | 2.25 mmol | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | allyl (1S,5R,6S)-2-(hydroxymethyl)-6-[1(R)-allyloxycarbonyloxy-ethyl]-1-methylcarbapen-2-em-3-carboxylate | 1.5 mmol | OCC=1[C@@H]([C@H]2N(C1C(=O)OCC=C)C([C@@H]2[C@@H](C)OC(=O)OCC=C)=O)C | C18H23NO7
reactant | 2,5,6,7-tetrahydro-1-thia-2,6-diaza-cyclopenta[cd]phenalene-1,1-dioxide | 1.5 mmol | S1(NC=2C3=C1C=CC=1CNCC(=CC2)C13)(=O)=O | C12H10N2O2S
reactant | triphenylphosphine | 2.25 mmol | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | Allyl (1S,5R,6S)-1-methyl-2-(1,1-dioxo-2,5,6,7-tetrahydro-1-thia-2,6-diaza-cyclopenta[cd]phenalen-2-ylmethyl)-6-(1-(R)-allyloxycarbonyloxyethyl)-carbapen-2-em-3-carboxylate | C[C@H]1C(=C(N2[C@H]1[C@H](C2=O)[C@@H](C)OC(=O)OCC=C)C(=O)OCC=C)CN2S(C=1C=CC=3CNCC4=CC=C2C1C34)(=O)=O | C30H31N3O8S
